US06953857B2
(4-{3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-benzoylamino}-piperidin-1-yl)-acetic acid
To 360 mg 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-N-piperidin-4-yl-benzamide hydrochloride and 162 mg NaOH in 20 ml EtOH/H2O 1:1 142 mg bromo acetic acid was added at RT. After stirring over night the reaction mixture was acidified with half concentrated HCl. After evaporation of the solvent the residue was coevaporated with toluene. The waxy brown solid was subjected to the subsequent reaction without further purification.

reactant | 3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-N-piperidin-4-yl-benzamide hydrochloride | 360 mg | Cl.ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)NC2CCNCC2)C=CC1OC
reactant | NaOH | 162 mg | [OH-].[Na+]
reactant | bromo acetic acid | 142 mg | BrCC(=O)O | C2H3BrO2
reactant | HCl | Cl | ClH
solvent | EtOH H2O | 20 ml | CCO.O
product | (4-{3-[2-(2,4-Dichloro-phenyl)-ethoxy]-4-methoxy-benzoylamino}-piperidin-1-yl)-acetic acid | ClC1=C(C=CC(=C1)Cl)CCOC=1C=C(C(=O)NC2CCN(CC2)CC(=O)O)C=CC1OC | C23H26Cl2N2O5
